US03972935
A solution of 1-phenyl-1-(2-indanyl)-4bromobutane in ethanol was stirred at room temperature while methylpropylamine was added. The reaction mixture was stirred several hours at about 100°C. After cooling the reaction mixture to room temperature, the solvent was removed under reduced pressure, affording 1-phenyl-1-(2-indanyl)-4-methyl-n-propylaminobutane.

reactant | 1-phenyl-1-(2-indanyl)-4bromobutane | C1(=CC=CC=C1)C(CCCBr)C1CC2=CC=CC=C2C1 | C19H21Br
reactant | methylpropylamine | CNCCC | C4H11N
reactant | ethanol | C(C)O | C2H6O
product | 1-phenyl-1-(2-indanyl)-4-methyl-n-propylaminobutane | C1(=CC=CC=C1)C(CCCC)(C1CC2=CC=CC=C2C1)NCCC | C23H31N
